US07759337B2
Step D: (R)-4-Benzyl-3-methylmorpholine
(R)-4-Benzyl-5-methylmorpholin-3-one (5.05 g, 24.6 mmol) was dissolved in THF (12.3 mL) before lithium aluminum hydride (1.87 g, 49.2 mmol) was added and the mixture stirred at RT for 1 h. The reaction mixture was quenched with ethyl acetate before a few drops of ammonium chloride was added. The colorless oil was filtered, washed with dichloromethane, concentrated, and purified by flash chromatography to give the title compound. MS (ES+): 192(M+H)+.

reactant | (R)-4-Benzyl-5-methylmorpholin-3-one | 24.6 mmol, 5.05 g | C(C1=CC=CC=C1)N1C(COC[C@H]1C)=O | C12H15NO2
reactant | lithium aluminum hydride | 49.2 mmol, 1.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 12.3 mL | C1CCOC1 | C4H8O
product | (R)-4-Benzyl-3-methylmorpholine | C(C1=CC=CC=C1)N1[C@@H](COCC1)C | C12H17NO
